US05817693
d) (1RS,2RS,3SR)-1-(3,4-Methylenedioxyphenyl)-3-phenylindane-2-carboxylic acid
To a solution of ethyl(1RS,2SR,3SR)-1-(3,4-methylenedioxyphenyl)-3-phenylindane-2-carboxylate (650 mg, 1.68 mmol) in EtOH containing a few drops of THF was added 6M KOH (1.68 ml, 10.1 mmol). The resulting mixture was allowed to stir at room temperature overnight, then was concentrated under reduced pressure. The residue was partitioned between H2O and Et2O. The aqueous phase was acidified with 3M HCl and extracted several times with EtOAc. The combined EtOAc extracts were washed successively with H2O and saturated aqueous NaCl and dried (MgSO4). The solvent was removed in vacuo to afford an oil, which was crystallized from EtOAc/hexanes. The title compound was obtained as a solid (305 mg, 51%); m.p. 186°-187° C.

reactant | ethyl(1RS,2SR,3SR)-1-(3,4-methylenedioxyphenyl)-3-phenylindane-2-carboxylate | 1.68 mmol, 650 mg | C1OC=2C=C(C=CC2O1)C1C(C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C25H22O4
reactant | KOH | 10.1 mmol, 6M, 1.68 ml | [OH-].[K+]
catalyst | EtOH | a few drops | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | (1RS,2RS,3SR)-1-(3,4-Methylenedioxyphenyl)-3-phenylindane-2-carboxylic acid | C1OC=2C=C(C=CC2O1)C1C(C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)O | C23H18O4
